US04473697
63 g. of iron powder are activated by heating with a mixture of 12 ml of 5N hydrochloric acid and 30 ml. of water on a water bath for half an hour, addition of 270 ml. of water and cooling the suspension to 45° C. follows. A hot solution of 58.5 g. of 4-thiocyanato-2-nitro-aniline and 180 ml of 96% ethanol is added under stirring to the suspension formed. The temperature of the reaction mixture rises slowly. When the temperature reaches 75° C. the reaction mixture is cooled with ice in order to maintain the internal temperature below 85° C. The exothermic stage of the reaction lasts for 3-4 minutes. The reaction mixture is then heated to boiling until no more starting material can be detected by means of thin layer chromatography (about 15 minutes). The warm reaction mixture is filtered, 225 ml. of hot water are added to the filtrate, the solution is clarified with activated charcoal, filtered until warm and the filtrate is allowed to crystallize slowly under stirring. The mixture containing crystals is stirred at 0° C. for 5-6 hours, the crystals are filtered off, washed with cold 25% ethanol and dried in vacuo. Thus 41,6 g. of 4-thiocyanato-1,2-diamino-benzene are obtained, yield: 79%, M.p.: 108°-110° C.

reactant | hydrochloric acid | 5N, 12 ml | Cl | ClH
reactant | water | O | H2O
reactant | 4-thiocyanato-2-nitro-aniline | S(C#N)C1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H5N3O2S
catalyst | iron | [Fe] | Fe
solvent | ethanol | 180 ml | C(C)O | C2H6O
product | 4-thiocyanato-1,2-diamino-benzene | yield: 79% | S(C#N)C1=CC(=C(C=C1)N)N | C7H7N3S
